US09023847B2
170. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((S)-2-amino-1-phenyl-ethyl)-amide
A solution of 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((S)-2-azido-1-phenyl-ethyl)-amide (130.00 mg; 0.32 mmol; 1.00 eq.) in methanol (50.00 ml) was subjected to hydrogenation with 10% palladium on carbon via H-Cube at 1 mL/min. After completion the solution was concentrated in vacuo. The crude was purified by Yamazen (basic condition, 0.1% NH4OH in Water/ACN) to afford the title compound as white solid in 66% yield. LCMS: m/e 378 (M+H). 1H NMR (DMSO-d6): ppm 11.53 (1H, br. s.), 8.00 (1H, d, J=5.48 Hz), 7.82 (1H, d, J=5.12 Hz), 7.45 (1H, d, J=5.48 Hz), 7.26-7.33 (5H, m), 7.18-7.22 (1H, m), 6.75 (1H, d, J=5.52 Hz), 6.39 (1H, d, J=3.28 Hz), 4.96 (1H, dd, J=8.08, 5.52 Hz), 2.78-2.88 (2H, m).

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((S)-2-azido-1-phenyl-ethyl)-amide | 0.32 mmol, 130.00 mg, 1.00 eq. | N(=[N+]=[N-])C[C@H](C1=CC=CC=C1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H17N7OS
solvent | methanol | 50.00 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((S)-2-amino-1-phenyl-ethyl)-amide | 66% yield | NC[C@H](C1=CC=CC=C1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H19N5OS
